US07812028B2
a) 5-Bromo-6-(2-methoxy-ethoxy)-nicotinic Acid Methyl Ester
5-Bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester (15 g, 65 mmol, CA 381247-99-0) was suspended in THF (500 mL). To this suspension was added with stirring 2-methoxyethanol (7.1 mL, 97 mmol), diisopropylazodicarboxylate (21.5 mL, 97 mmol) and triphenylphosphine (25.4 g, 97 mmol). This mixture was stirred for 1 h at room temperature and the solvent was removed in vacuo. The residue was purified by flash chromatography on silica (heptane/ethylacetate, 2:1) to give the title compound (8.65 g) as a yellow solid; MS (ISP) 290.1 (M+H)+.

reactant | 5-Bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | 65 mmol, 15 g | COC(=O)C1=CNC(C(=C1)Br)=O | C7H6BrNO3
reactant | 2-methoxyethanol | 97 mmol, 7.1 mL | COCCO | C3H8O2
reactant | diisopropylazodicarboxylate | 97 mmol, 21.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 97 mmol, 25.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 5-Bromo-6-(2-methoxy-ethoxy)-nicotinic Acid Methyl Ester | 8.65 g | COC(C1=CN=C(C(=C1)Br)OCCOC)=O | C10H12BrNO4
